US07618970B2
1-{[(1S,3R)-3-Amino-1-isopropylcyclopentyl]carbonyl}-4-[2-(trifluoromethyl)phenyl]piperidin-4-ol
To a flask containing tert-butyl [(1R,3S)-3-({4-hydroxy-4-[2-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)-3-isopropylcyclopentyl]carbamate (0.27 g, 0.54 mmol) was added a 2.00 M solution of HCl in ether (5 mL) and the resulting mixture stirred for 3.5 h. The solution was concentrated to give an oil which was used in the next reaction without purification. MS calculated for C21H29F3N2O2:(M+H)399; found 399.2.

reactant | tert-butyl [(1R,3S)-3-({4-hydroxy-4-[2-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)-3-isopropylcyclopentyl]carbamate | 0.54 mmol, 0.27 g | OC1(CCN(CC1)C(=O)[C@@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(C)C)C1=C(C=CC=C1)C(F)(F)F | C26H37F3N2O4
reactant | HCl | Cl | ClH
solvent | ether | 5 mL | CCOCC | C4H10O
product | 1-{[(1S,3R)-3-Amino-1-isopropylcyclopentyl]carbonyl}-4-[2-(trifluoromethyl)phenyl]piperidin-4-ol | N[C@H]1C[C@@](CC1)(C(C)C)C(=O)N1CCC(CC1)(O)C1=C(C=CC=C1)C(F)(F)F | C21H29F3N2O2
